US07495007B2
To a solution of 1,2-difluoro-4-methyl-benzene (5.0 g, 39 mmol) in tetrahydrofuran (200 mL) at −78° C. was added lithium diisopropyl amine (24 mL, 1.8 M in THF, 43 mmol) dropwise during a period of 15 mins. The mixture was stirred at −78° C. for another 20 min. Then N,N-dimethyl-formamide (3.6 mL, 47 mmol) was added in one portion. The mixture was stirred at −78° C. for 10 min, then quenched with acetic acid (9.4 g, 1.56 mmol) and followed by the addition of water (37.6 mL). The mixture was partitioned between ethyl acetate and water. The organic layer was separated, concentrated. The residue was purified by chromatography (EtOAc:hexanes=1:1) to give 2,3-difluoro-6-methyl-benzaldehyde as colorless oil (Yield: 3.5 g, 57.5%).

reactant | 1,2-difluoro-4-methyl-benzene | 39 mmol, 5.0 g | FC1=C(C=C(C=C1)C)F | C7H6F2
reactant | lithium diisopropyl amine | 43 mmol, 1.8 M, 24 mL | C(C)(C)NC(C)C.[Li]
reactant | N,N-dimethyl-formamide | 47 mmol, 3.6 mL | CN(C=O)C | C3H7NO
reactant | acetic acid | 1.56 mmol, 9.4 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 37.6 mL | O | H2O
product | 2,3-difluoro-6-methyl-benzaldehyde | Yield: 3.5 g, 57.5% | FC1=C(C=O)C(=CC=C1F)C | C8H6F2O
